US07432258B2
a) 6-Methyl-5-(methyloxy)-1,3-benzoxazol-2(3H)-one
To a solution of 2-amino-5-methyl-4-(methyloxy)phenol (1.54 g, 10 mmol) in THF (60 mL) was added carbodiimidazole (1.94 g, 12 mmol). The reaction mixture was stirred for 3 hours at room temperature, concentrated, diluted with EtOAc (100 mL), washed with 1N HCl, H2O, brine, and dried (Na2SO4). The solvent was removed via rotovap to give the title compound (1.76 g, 98%) as a white solid. MS (ES) m/e 180 [M+H]+.

reactant | 2-amino-5-methyl-4-(methyloxy)phenol | 10 mmol, 1.54 g | NC1=C(C=C(C(=C1)OC)C)O | C8H11NO2
reactant | carbodiimidazole | 12 mmol, 1.94 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 6-Methyl-5-(methyloxy)-1,3-benzoxazol-2(3H)-one | 1.76 g, 98% | CC1=CC2=C(NC(O2)=O)C=C1OC | C9H9NO3
